US08735414B2
To a solution of (R)-6-(3-cyano-1-cyclopentyl-6-methyl-1H-indol-2-yl)-pyridine-3-sulfonic acid (2,2,2-trifluoro-1-methyl-ethyl)-amide (0.48 g, 1.05 mmol) in acidic acid (3 mL) was added bromine (0.35 g, 2.1 mmol) dropwise. The solution was stirred at 90° C. for 30 min, cooled to room temperature and then diluted with water (20 mL). The precipitate was collected and washed thoroughly with water, then dried to give (R)-6-(5-bromo-3-cyano-1-cyclopentyl-6-methyl-1H-indol-2-yl)-pyridine-3-sulfonic acid (2,2,2-trifluoro-1-methyl-ethyl)-amide as a light yellow solid (0.54 g, 93%).

reactant | (R)-6-(3-cyano-1-cyclopentyl-6-methyl-1H-indol-2-yl)-pyridine-3-sulfonic acid (2,2,2-trifluoro-1-methyl-ethyl)-amide | 1.05 mmol, 0.48 g | FC([C@@H](C)NS(=O)(=O)C=1C=NC(=CC1)C=1N(C2=CC(=CC=C2C1C#N)C)C1CCCC1)(F)F | C23H23F3N4O2S
reactant | bromine | 2.1 mmol, 0.35 g | BrBr | Br2
solvent | water | 20 mL | O | H2O
product | (R)-6-(5-bromo-3-cyano-1-cyclopentyl-6-methyl-1H-indol-2-yl)-pyridine-3-sulfonic acid (2,2,2-trifluoro-1-methyl-ethyl)-amide | 0.54 g, 93% | FC([C@@H](C)NS(=O)(=O)C=1C=NC(=CC1)C=1N(C2=CC(=C(C=C2C1C#N)Br)C)C1CCCC1)(F)F | C23H22BrF3N4O2S
